US06017936
In another aspect, the present invention relates to a method for producing submicron-sized particles of zinc pyrithione comprising reacting a pyrithione or a water-soluble salt of pyrithione and a water-soluble zinc salt selected from the group consisting of zinc sulfate, zinc chloride, zinc acetate, and combinations thereof, in a turbulent flow reactor generating pulverizing forces, the turbulent flow reactor maintained at a pressure of from about 18,000 psi to about 23,000 psi and a temperature of from about 0° C. to about 23° C., the reaction producing submicron-sized particles of zinc pyrithione.

reactant | pyrithione | C=1C=C[N+](=C(C1)S)[O-] | C5H5NOS
reactant | zinc sulfate | S(=O)(=O)([O-])[O-].[Zn+2]
reactant | zinc chloride | [Cl-].[Zn+2].[Cl-]
reactant | zinc acetate | C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
solvent | water | O | H2O
product | zinc pyrithione | C1=CC(=S)N(C=C1)[O-].C1=CC(=S)N(C=C1)[O-].[Zn+2] | InChI=1S/2C5H4NOS.Zn/c2*7-6-4-2-1-3-5(6)8;/h2*1-4H;/q2*-1;+2
